US07465730B2
Utilizing the general procedure outlined in Example 65, 1-[4-acetyl-1-(4-hydroxy-2-methoxy-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone (70 mg, 2.3 mmol) reacted with bromoethane (300 μL, excess), in the presence of K2CO3 (50 mg), to afford 1-[4-acetyl-1-(4-ethoxy-2-methoxy-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone: MS (ESI) 330 (M+H)+.

reactant | 1-[4-acetyl-1-(4-hydroxy-2-methoxy-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone | 2.3 mmol, 70 mg | C(C)(=O)C=1C(=C(N(C1C)C1=C(C=C(C=C1)O)OC)C)C(C)=O | C17H19NO4
reactant | K2CO3 | 50 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | bromoethane | 300 μL | BrCC | C2H5Br
product | 1-[4-acetyl-1-(4-ethoxy-2-methoxy-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone | C(C)(=O)C=1C(=C(N(C1C)C1=C(C=C(C=C1)OCC)OC)C)C(C)=O | C19H23NO4
